US04599335
274 g of trans-1,2-diaminocyclohexane and 134.4 g of 3-(4-tert.-butylphenyl)-2-methylpropyl chloride (German Laid-Open Application DOS No. 2,752,096) were stirred for 10 hours at 140° C. and then cooled to +10° C. in an ice bath, and 200 ml of a 50% strength by weight sodium hydroxide solution were added slowly, followed by the addition of 200 ml of ether. The organic phase was separated off, dried over potassium hydroxide and distilled to give 151 g of N-(3-(4-tert.-butylphenyl)-2-methylpropyl)-trans-1,2-diaminocyclohexane of boiling point 175°-180° C./0.3 mbar. Yield: 83.3% of theory.

reactant | trans-1,2-diaminocyclohexane | 274 g | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | 3-(4-tert.-butylphenyl)-2-methylpropyl chloride | 134.4 g | C(C)(C)(C)C1=CC=C(C=C1)CC(CCl)C | C14H21Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
product | N-(3-(4-tert.-butylphenyl)-2-methylpropyl)-trans-1,2-diaminocyclohexane | 151 g, Yield: 83.3% | C(C)(C)(C)C1=CC=C(C=C1)CC(CN[C@H]1[C@@H](CCCC1)N)C | C20H34N2
